US04704459
In 2 ml of benzene was suspended 200 mg of ethyl 2-[6-(3-acetylamino-1-pyrrolidinyl)-2-(2,4-difluorophenylamino)-5-fluoronicotinoyl]acetate, and 100 mg of N,N-dimethylformamide dimethylacetal was added thereto, after which the resulting mixture was subjected to reaction under reflux for 7 hours. Subsequently, the crystals thus deposited were collected by filtration and washed with 2 ml of diethyl ether to obtain 180 mg (yield 88.1%) of ethyl 7-(3-acetylamino-1-pyrrolidinyl)-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate having a melting point of 233°-236° C.

reactant | ethyl 2-[6-(3-acetylamino-1-pyrrolidinyl)-2-(2,4-difluorophenylamino)-5-fluoronicotinoyl]acetate | 200 mg | C(C)(=O)NC1CN(CC1)C1=NC(=C(C(=O)CC(=O)OCC)C=C1F)NC1=C(C=C(C=C1)F)F | C22H23F3N4O4
reactant | N,N-dimethylformamide dimethylacetal | 100 mg | COC(N(C)C)OC | C5H13NO2
solvent | benzene | 2 ml | C1=CC=CC=C1 | C6H6
product | ethyl 7-(3-acetylamino-1-pyrrolidinyl)-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | 180 mg, yield 88.1% | C(C)(=O)NC1CN(CC1)C1=C(C=C2C(C(=CN(C2=N1)C1=C(C=C(C=C1)F)F)C(=O)OCC)=O)F | C23H21F3N4O4
